US05646171
42(i) Diethyl 1-benzyl-2-methylimidazole-4,5-dicarboxylate
5.21 g of potassium t-butoxide were added to a solution of 10.0 g of diethyl 2-methylimidazole-4,5-dicarboxylate in 100 ml of N,N-dimethylacetamide, whilst ice-cooling and under a nitrogen atmosphere. The mixture was stirred for 30 minutes, until a homogeneous solution was obtained, and then 5.78 ml of benzyl bromide were added dropwise to this solution, whilst ice-cooling. The resulting mixture was stirred at room temperature for 1 hour, after which it was mixed with ethyl acetate and water and shaken. The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 12.38 g of the title compound as a syrup.

reactant | potassium t-butoxide | 5.21 g | CC(C)([O-])C.[K+]
reactant | diethyl 2-methylimidazole-4,5-dicarboxylate | 10.0 g | CC=1NC(=C(N1)C(=O)OCC)C(=O)OCC | C10H14N2O4
reactant | benzyl bromide | 5.78 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | Diethyl 1-benzyl-2-methylimidazole-4,5-dicarboxylate | 12.38 g | C(C1=CC=CC=C1)N1C(=NC(=C1C(=O)OCC)C(=O)OCC)C | C17H20N2O4
